US06194578B1
A. 2-Pyridin-2-ylmethyl-piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester
A stirred solution of piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester (200 g, 529 mol) in tetrahydrofuran (200 mL) and DMF (1.5 L) was cooled to −78° C. under a nitrogen atmosphere, and a 0.5 M solution of potassium bis(trimethylsilyl)amide in THF (1.27 L) was added. After the above solution had stirred about one hour, the free base of 2-picolyl chloride was generated by extracting the corresponding hydrochloride salt (217 g, 1.32 mol) from saturated sodium bicarbonate solution with methylene chloride. The combined organic extracts were dried (MgSO4), concentrated, immediately dissolved in DMF (100 mL), and then added dropwise to the enolate containing solution. The reaction was stirred for about 4 hours at −78° C., then slowly warmed to room temperature and stirred overnight. The toluene and THF were removed under reduced pressure. The residue was extracted from water (1.5 L) with ethyl acetate (3×1 L), the combined extracts were then washed with water (1.5 L), dried (MgSO4) and then concentrated in vacuo to give 240 g of crude title compound of part 5-A which carried on to the next step: +APcI MS (M+H)+ 470; 1H NMR=400 MHz (methanol-d4) δ8.4 (arom, m, 1H), 7.65-7.2 (arom, m, 7H), 6.94 (arom, m, 1H), 5.18 (CbzNCHH, m, 1H), 5.05 (CbzNCHH, m, 1H), 2.54 (m, 1H), 1.41 (Boc, s, 9H).

reactant | piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester | 529 mol, 200 g | COC(=O)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C19H26N2O6
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2-picolyl chloride | N1=C(C=CC=C1)CCl | C6H6ClN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | DMF | 1.5 L | CN(C)C=O | C3H7NO
solvent | THF | 1.27 L | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Pyridin-2-ylmethyl-piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester | 240 g | COC(=O)C1(N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)CC1=NC=CC=C1 | C25H31N3O6
